US05576293
Step A: Preparation of N-(alpha-chloroacetyl)-L-isoleucinol
To a stirred solution of L-isoleucinol (20 g, 0.17 mol) and triethylamine (28.56 ml, 0.204 mol) in CH2Cl2 (500 ml) at -78° C. was added chloroacetyl chloride (16.3 ml, 0.204 mol) over 5 minutes. The cooling bath was removed and the solution allowed to warm to -20° C. The mixture was diluted with EtOAc and washed sequentially with 1M HCl, and brine and dried (Na2SO4). Evaporation in vacuo afforded the amide title compound (35 g, 100%).

reactant | L-isoleucinol | 0.17 mol, 20 g | N[C@@H]([C@@H](C)CC)CO | C6H15NO
reactant | triethylamine | 0.204 mol, 28.56 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.204 mol, 16.3 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(alpha-chloroacetyl)-L-isoleucinol | 35 g, 100% | ClCC(=O)N[C@@H]([C@@H](C)CC)CO | C8H16ClNO2
